US06627651B1
To ethyl diethylphosphonoacetate (24.7 g) was added THF (200 ml), and sodium hydride (60%, 4.4 g) was added at 0° C. to the resulting mixture, to which was then added dropwise a solution of 3-propoxybenzaldehyde (16.1 g) in THF (100 ml). The resulting mixture was stirred at room temperature for 1.5 hours. The reaction mixture was poured into water, was neutralized with hydrochloric acid and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with anhydrous magnesium sulfate. After concentration under reduced pressure to remove the solvent, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to obtain ethyl 3-propoxycinnamate (24.0 g) as a yellow oil.

reactant | ethyl diethylphosphonoacetate | 24.7 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 4.4 g | [H-].[Na+]
reactant | 3-propoxybenzaldehyde | 16.1 g | C(CC)OC=1C=C(C=O)C=CC1 | C10H12O2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl 3-propoxycinnamate | 24.0 g | C(CC)OC=1C=C(C=CC(=O)OCC)C=CC1 | C14H18O3
